US04913721
3-Phenylbenzyl bromide (melting point 54°-56° C.) was prepared by illumination of a solution of 3-phenyltoluene and N-bromosuccinimide in carbon tetrachloride in the presence of azobisisobutyronitrile.

reactant | 3-phenyltoluene | C1(=CC=CC=C1)C=1C=C(C=CC1)C | C13H12
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Phenylbenzyl bromide | C1(=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11Br
